US08038732B2
Synthesis of 3-[(4-formylphenyl)(methyl)-amino]-N,N,N-trimethylpropan-1-aminium methane sulphonate
5 g of [[3-(dimethylamino)propyl](methyl)amino]benzaldehyde are diluted in 15 ml of dichloromethane. 2.36 ml of dimethyl sulphate diluted in 10 ml of dichloromethane are gradually added. The mixture is refluxed for 4 h and then cooled to ambient temperature and poured into 100 ml of ethyl acetate. The brown oil formed is separated by settling out, washed with 100 ml of EtOAc, taken up in 200 ml of methanol and concentrated under vacuum. It is subsequently dissolved in a saturated solution of sodium bicarbonate and of sodium chloride and extracted with butanol. The butanol phase is concentrated under vacuum and dried under vacuum in the presence of P2O5, and the product is then used for the subsequent step.

reactant | [[3-(dimethylamino)propyl](methyl)amino]benzaldehyde | 5 g | CN(CCCN(C)C1=C(C=O)C=CC=C1)C | C13H20N2O
reactant | dimethyl sulphate | 2.36 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-[(4-formylphenyl)(methyl)-amino]-N,N,N-trimethylpropan-1-aminium methane sulphonate | CS(=O)(=O)[O-].C(=O)C1=CC=C(C=C1)N(CCC[N+](C)(C)C)C | InChI=1S/C14H23N2O.CH4O3S/c1-15(10-5-11-16(2,3)4)14-8-6-13(12-17)7-9-14;1-5(2,3)4/h6-9,12H,5,10-11H2,1-4H3;1H3,(H,2,3,4)/q+1;/p-1
